US07615651B2
[2-Methyl-4′-[(3-methyl-butylamino)-methyl]-biphenyl-4-carboxylic acid amide (A: 5.8 g, 19 mmol) was dissolved in ethyl acetate (25 ml) and treated with an aqueous saturated sodium bicarbonate solution (50 ml) and di-tert-butyl dicarbonate (6.12 g, 28 mmol). The reaction mixture was heated to 50° C. and after 2 hours cooled to room temperature, diluted with water and the layers were separated. The organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified using chromatography on silica gel eluting with 10% ethyl acetate in hexanes to yield 7.0 g of (4′-carbamoyl-2′-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-4b).

reactant | 2-Methyl-4′-[(3-methyl-butylamino)-methyl]-biphenyl-4-carboxylic acid amide | CC1=C(C=CC(=C1)C(=O)N)C1=CC=C(C=C1)CNCCC(C)C | C20H26N2O
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 28 mmol, 6.12 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (4′-carbamoyl-2′-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester | 7.0 g | C(C)(C)(C)OC(N(CCC(C)C)CC1=CC=C(C=C1)C1=C(C=C(C=C1)C(N)=O)C)=O | C25H34N2O3
